US06232312B1
A solution of 13.4 g. of 6-methoxy-2-methyl-indanone and 19.3 g. of methyl bromoacetate in 45 ml. benzene is added over a period of 5 minutes to 21 g. of zinc amalgam (prepared according to Org. Syn. Coll., vol. 3) in 110 ml. benzene and 40 ml. dry ether. A few crystals of iodine are added to start the reaction, and the reaction mixture is maintained at reflux temperature (ca. 65°) with external heating. At 3 hour intervals, two batches of 10 g. zinc amalgam and 10 g. bromoester are added, and the mixture is then refluxed for 8 hours. After addition of 30 ml. ethanol and 150 ml. of acetic acid, the mixture is poured into 700 ml. of 1:1 aqueous acetic acid. The organic layer is separated, and the aqueous layer is extracted twice with ether. The combined organic layers are washed thoroughly with water, ammonium hydroxide and water. Drying over sodium sulfate, evaporation of solvent in vacuo followed by pumping at 80° (bath temp.) (1-2 mm.) gives crude methyl(1-hydroxy-2-methyl-methoxy-indenyl)acetate.

reactant | 6-methoxy-2-methyl-indanone | COC1=CC=C2CC(C(C2=C1)=O)C | C11H12O2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | iodine | II | I2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | methyl(1-hydroxy-2-methyl-methoxy-indenyl)acetate | COC(CC1C(=C(C2=CC=CC=C12)OCO)C)=O | C14H16O4
